US04407930
E. 2-Amino-5-nitroresorcinol
2-Acetamido-5-nitroresorcinol ditosylate (9.0 g, 0.017 mole) was added to cold sulfuric acid (25 ml, at or below 10° C.). The mixture was stirred cold an additional fifteen minutes and then at ambient temperature for 1.5 hours. The mixture was then poured into 250 ml ice water and sodium hydroxide (30 g, 0.75 mole) was slowly added. The mixture was then treated with sodium bicarbonate until it was no longer acidic, and aqueous solution was extracted twice with ethyl acetate (150 ml). The extracts were combined, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure to yield a light yellow solid (2.5 g, 86.2 percent). TLC showed the product was pure.

reactant | 2-Acetamido-5-nitroresorcinol ditosylate | 0.017 mole, 9.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC1=C(C(OS(=O)(=O)C2=CC=C(C)C=C2)=CC(=C1)[N+](=O)[O-])NC(C)=O | C22H20N2O9S2
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 0.75 mole, 30 g | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-Amino-5-nitroresorcinol | 2.5 g, 86.2 percent | NC1=C(O)C=C(C=C1O)[N+](=O)[O-] | C6H6N2O4
